US07432287B2
Preparation of 5-(2-hydroxy-1-methyl-ethoxy)-3-(4-methanesulfonylphenylsulfanyl)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 133 was obtained as a colorless amorphous substance using 3-hydroxy-5-iodobenzoic acid methyl ester, (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane, 4-methanesulfonylbenzenethiol and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 74 or 82, a corresponding method, or a combination thereof with an ordinary method.

reactant | 3-hydroxy-5-iodobenzoic acid methyl ester | COC(C1=CC(=CC(=C1)I)O)=O | C8H7IO3
reactant | (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 4-methanesulfonylbenzenethiol | CS(=O)(=O)C1=CC=C(C=C1)S | C7H8O2S2
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(2-hydroxy-1-methyl-ethoxy)-3-(4-methanesulfonylphenylsulfanyl)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | OCC(OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)SC1=CC=C(C=C1)S(=O)(=O)C)C | C21H23N3O5S2
